US08791123B2
To a suspension of (R)-ethyl 5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (0.72 g, 1.868 mmol) in MeOH (9.34 mL) was added 1N LiOH (3.74 ml, 3.74 mmol) and the reaction mixture heated to 70° C. for 15 hours. After cooling, the reaction mixture was concentrated and the resulting residue diluted in water. After acidifying with citric acid (solid), the aqueous layer was extracted with DCM. The combined organics were dried with MgSO4, filtered and concentrated to afforded (R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (0.67 g, 100%) as a yellow solid. MS (apci) m/z=357.9 (M+H).

reactant | (R)-ethyl 5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 1.868 mmol, 0.72 g | FC=1C=C(C(=NC1)OC)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C19H20FN5O3
reactant | LiOH | 3.74 mmol, 1N, 3.74 ml | [Li+].[OH-]
solvent | MeOH | 9.34 mL | CO | CH4O
product | (R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.67 g, 100% | FC=1C=C(C(=NC1)OC)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H16FN5O3
